US04666510
(b) 3-Hydroxy-5-mesityl-2-propionylcyclohex-2-en-1-one (1.3 g; 4.5 mmole) was added to acetic anhydride (3.0 g) at 5° C. A solution of fuming nitric acid (0.42 g) in a glacial acetic acid (0.27 g)/acetic anhydride (0.27 g) solution was added to the cooled, stirred mixture dropwise over a period of 5 minutes. The mixture was maintained at 5° C. over a period of 1 hour and then at room temperature over a period of 2 hours followed by heating at 50° C. for 10 minutes. The resultant cooled solution was then poured into ice water (100 ml) and extracted with diethyl etther. The organic phase was washed three times with saturated sodium bicarbonate solution and twice with water, then dried over anhydrous sodium sulfate. The solvent was removed by evaporation under reduced pressure using a rotary evaporator and the resultant yellow solid recrystallized from ethanol to give 3-hydroxy-5-(2,4,6-trimethyl-3-nitrophenyl)-2-propionylcyclohex-2-en- 1-one (0.65 g; 43.6%) as a yellow solid mp 174° C.

reactant | 3-Hydroxy-5-mesityl-2-propionylcyclohex-2-en-1-one | 4.5 mmole, 1.3 g | OC1=C(C(CC(C1)C1=C(C=C(C=C1C)C)C)=O)C(CC)=O | C18H22O3
reactant | acetic anhydride | 3.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 0.42 g | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 0.27 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 0.27 g | C(C)(=O)O | C2H4O2
product | 3-hydroxy-5-(2,4,6-trimethyl-3-nitrophenyl)-2-propionylcyclohex-2-en- 1-one | 0.65 g, 43.6% | OC1=C(C(CC(C1)C1=C(C(=C(C=C1C)C)[N+](=O)[O-])C)=O)C(CC)=O | C18H21NO5
